US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-(1-hydroxyiminomethyl)pentylamide
In 15 ml of ethanol was dissolved 1.0 g of N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 4-(b), and 210 mg of hydroxyammonium chloride and 5 ml of pyridine were added thereto. The mixture was allowed to react at room temperature for 24 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel to obtain 830 mg of the titled compound as a colorless crystal.

reactant | N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide | 1.0 g | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H30N2O4
reactant | hydroxyammonium chloride | 210 mg | [Cl-].O[NH3+]
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-Benzyloxycarbonyl-L-leucine-(1-hydroxyiminomethyl)pentylamide | 830 mg | ON=CN(C([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCCC | C20H31N3O4
